US07557244B2
b) 2-[5-(3,5-Bis-trifluoromethyl-phenylamino)-4′-chloro-3′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester
A mixture of 2-(4′-chloro-5-trifluoromethanesulfonyloxy-3′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester (48 mg, 0.10 mmol), 3,5-bis-(trifluoromethyl)-aniline (18 μL, 0.12 mmol), sodium tert-butoxide (9.8 mg, 0.10 mmol), Pd(OAc)2 (2.5 mg, 0.01 mmol), 2-(di-tert-butylphoshino-1,1′-binaphthyl (3.5 mg, 0.01 mmol) and toluene (1 mL) was stirred under microwave irradiation at 130° C. for 3×10 min. The mixture was diluted with toluene (9 mL), washed with 1M HCl (2×10 mL) and brine (10 mL), dried (MgSO4), concentrated in vacuo and purified by flash column chromatography (diethylether-petroleum ether) to afford the title product as a colourless powder (28 mg, 44%). Mass spectrum (ESI, m/z): 610, 612 (M−H).

reactant | 2-(4′-chloro-5-trifluoromethanesulfonyloxy-3′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester | 0.10 mmol, 48 mg | COC(C(CC(C)C)C=1C=C(C=C(C1)OS(=O)(=O)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C21H19ClF6O5S
reactant | 3,5-bis-(trifluoromethyl)-aniline | 0.12 mmol, 18 μL | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | sodium tert-butoxide | 0.10 mmol, 9.8 mg | CC(C)([O-])C.[Na+]
reactant | di-tert-butylphoshino-1,1′-binaphthyl | 0.01 mmol, 3.5 mg | C(C)(C)(C)P(C(C)(C)C)C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12 | C28H31P
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.01 mmol, 2.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[5-(3,5-Bis-trifluoromethyl-phenylamino)-4′-chloro-3′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | 28 mg, 44% | COC(C(CC(C)C)C=1C=C(C=C(C1)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C28H23ClF9NO2
